US06090950
The 4-(acetoxymethyl)cylohexan-1-ol obtained above is oxidized with 3.0 equivalents of pyridinium dichromate in refluxing methylene chloride to afford 4-(acetoxymethyl)cyclohexan-1-one.

reactant | 4-(acetoxymethyl)cylohexan-1-ol | C(C)(=O)OCC1CCC(CC1)O | C9H16O3
reactant | pyridinium dichromate | 3.0 equivalents | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(acetoxymethyl)cyclohexan-1-one | C(C)(=O)OCC1CCC(CC1)=O | C9H14O3
